US07247734B2
To a mixture of 3-(2,4-bis-benzyloxy-5-chloro-phenyl)-4-iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazole (0.1 g, 0.15 mmol) in DMF (3 ml) was added 4-aminomethylboronic acid (0.028 g, 0.30 mmol). 1M sodium bicarbonate solution (0.5 ml, 0.5 mmol) was then added, followed by dichlorobis(triphenylphosphine) palladium 11 (0.011 g, 0.015 mmol). The mixture was degassed and then heated to 150° C., for 600 seconds under microwave irradiation. The mixture was then concentrated in vacuo and purified by column chromatography using dichloromethane and methanol as eluent to give 4-[3-(2,4-bis-benzyloxy-5-chloro-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazol-4-yl]-benzylamine (0.025 g, 26%).

reactant | 3-(2,4-bis-benzyloxy-5-chloro-phenyl)-4-iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazole | 0.15 mmol, 0.1 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Cl)C1=NN(C=C1I)COCC[Si](C)(C)C | C29H32ClIN2O3Si
reactant | sodium bicarbonate | 0.5 mmol, 1M, 0.5 ml | C([O-])(O)=O.[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-[3-(2,4-bis-benzyloxy-5-chloro-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazol-4-yl]-benzylamine | 0.025 g, 26% | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Cl)C1=NN(C=C1C1=CC=C(CN)C=C1)COCC[Si](C)(C)C | C36H40ClN3O3Si
